US05470878
To 1-(5-hexenyl)-3,7-dimethylxanthine (1.07 g, 4.1 mmol) and 4-methylmorpholine-N-oxide (1.44 g, 12.3 mmol) in water (20 ml) and acetone (10 ml) was added 2.5% solution of osmium tetraoxide in t-butanol (6 drops). After stirring for 48 hours, the mixture was treated with 20% aqueous sodium dithionite solution (20 ml). After 2 minutes, the mixture was extracted with 25% ethanol-dichloromethane (3×30 ml). The combined extracts were dried over magnesium sulfate and the solvents were evaporated under vacuum to give 1-(5,6-dihydroxyhexyl)-3,7-dimethylxanthine (750 mg, 62% yield) as a white powder.

reactant | 1-(5-hexenyl)-3,7-dimethylxanthine | 4.1 mmol, 1.07 g | C(CCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C13H18N4O2
reactant | 4-methylmorpholine-N-oxide | 12.3 mmol, 1.44 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium dithionite | 20 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 20 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
catalyst | t-butanol | 6 drops | C(C)(C)(C)O | C4H10O
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
product | 1-(5,6-dihydroxyhexyl)-3,7-dimethylxanthine | 750 mg, 62% yield | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C13H20N4O4
